US07208496B2
A solution of 1-(4-aminopiperidyl)-3-(2-methoxyphenoxy)propan-2-ol (40 mg) and 2,6-dimethylphenylisocyanate (30 μl) in dichloromethane (1 ml) was refluxed for 2 hours, after which time a further 20 μl of 2,6-dimethylphenylisocyanate was added, and the mixture refluxed for a further 2 hours. Solvent was removed under reduced pressure, and the residue flash chromatographed (0–6% methanol/dichloromethane), to provide [(2,6-dimethylphenyl)amino]-N-{1-[2-hydroxy-3-(2-methoxyphenoxy)propyl](4-piperidyl)}carboxamide.

reactant | 1-(4-aminopiperidyl)-3-(2-methoxyphenoxy)propan-2-ol | 40 mg | NC1CCN(CC1)CC(COC1=C(C=CC=C1)OC)O | C15H24N2O3
reactant | 2,6-dimethylphenylisocyanate | 30 μl | CC1=C(C(=CC=C1)C)N=C=O | C9H9NO
reactant | 2,6-dimethylphenylisocyanate | 20 μl | CC1=C(C(=CC=C1)C)N=C=O | C9H9NO
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | [(2,6-dimethylphenyl)amino]-N-{1-[2-hydroxy-3-(2-methoxyphenoxy)propyl](4-piperidyl)}carboxamide | CC1=C(C(=CC=C1)C)NC(=O)NC1CCN(CC1)CC(COC1=C(C=CC=C1)OC)O | C24H33N3O4
